US06770638B2
Step 2: 1-{2-[4-(3-Chloro-phenyl)-piperazin-1-yl]-ethyl}-1,5,6,7-tetrahydro-indol 4-one
To a solution of 1,5,6,7-tetrahyro-indol-4-one (51.5 mmol) in DMSO (60 mL) was added powdered sodium hydroxide (53.9 mmol) and the mixture was stirred at ambient temperature for 0.5 h. 1-(2-Chloroethyl)-4-(3-chlorophenyl) piperazine (49.0 mmol) was then added as a solution in DMSO (20 mL) and the resulting mixture stirred at ambient temperature for 24 h then heated to approximately 60° C. for 2 h, after which time TLC (ethyl acetate:dichloromethane 1:1) showed complete reaction. The reaction was poured into ice cold water (300 mL) and stirred for 0.5 h. A solid mass formed and was separated by decanting the water. The aqueous layer was extracted with dichloromethane (100 mL). The solid mass was dissolved with dichloromethane (100 mL) and the combined organics were dried with sodium sulfate and the solvent removed under vacuum. The resulting sludge was triturated with hexanes (100 mL) for 2 h and the suspension vacuum filtered and washed with hexanes. The obtained solid was under vacuum resulting in a tan powder (14.57 g) as the titled compound, NEO-376).

reactant | 1,5,6,7-tetrahyro-indol-4-one | 51.5 mmol | N1C=CC=2C(CCCC12)=O | C8H9NO
reactant | sodium hydroxide | 53.9 mmol | [OH-].[Na+]
reactant | 1-(2-Chloroethyl)-4-(3-chlorophenyl) piperazine | 49.0 mmol | ClCCN1CCN(CC1)C1=CC(=CC=C1)Cl | C12H16Cl2N2
reactant | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 1-{2-[4-(3-Chloro-phenyl)-piperazin-1-yl]-ethyl}-1,5,6,7-tetrahydro-indol 4-one | 14.57 g | ClC=1C=C(C=CC1)N1CCN(CC1)CCN1C=CC=2C(CCCC12)=O | C20H24ClN3O
